US04666915
Ethyl 1,6-dihydro-2-(2-ethoxyanilino)-6-oxo-5-pyrimidinecarboxylate (3.4 g) and sodium hydroxide (1 g) are added to water (50 ml), and the mixture is refluxed with stirring for 1 hour. After cooling, the reaction mixture is acidified with acetic acid, and the resulting solid is collected by filtration and recrystallized from DMF. The precipitate thus obtained is added to water (50 ml), and the mixture is refluxed with stirring for 1 hour. After cooling, the resulting product is collected by filtration and dried at 80° C. under reduced pressure to give 1,6-dihydro-2-(2-ethoxyanilino)-6-oxo-5-pyrimidinecarboxylic acid (2 g). M.p. 226°-228° C.

reactant | Ethyl 1,6-dihydro-2-(2-ethoxyanilino)-6-oxo-5-pyrimidinecarboxylate | 3.4 g | C(C)OC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C15H17N3O4
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 1,6-dihydro-2-(2-ethoxyanilino)-6-oxo-5-pyrimidinecarboxylic acid | 2 g | C(C)OC1=C(NC=2NC(C(=CN2)C(=O)O)=O)C=CC=C1 | C13H13N3O4
